US05053511
1,3-Dihydro-1-[(3-fluoro-4-pyridinyl)-propylamino]-2H-indol-2-one
To a stirred solution consisting of 1,3-dihydro-1-propylamino-2H-indol-2-one (5.06 g), phenol (13.2 g) and p-toluenesulfonic acid hydrate (0.25 g), heated at 150° C., was added 4-chloro-3-fluoropyridine hydrochloride (5.37 g). Heating was continued at 150° C. for 10.75 hours at which time additional 4-chloro-3-fluoropyridine (2.05 g) was added and heating continued an additional 6.5 hours. Upon cooling to room temperature, the reaction mixture was dissolved in dichloromethane and dilute aqueous sodium bicarbonate. The layers were separated and the organic layer extracted with dilute aqueous sodium bicarbonate (2×). The combined aqueous layers were back-extracted with dichloromethane and ether. The combined organic layers were washed with brine, dried (K2CO3), filtered, and concentrated. Purification via flash column chromatography (silica gel, 2% triethylamine/ether) and another column (silica gel, EtOAc) afforded the desired product as a solid.

reactant | 1,3-dihydro-1-propylamino-2H-indol-2-one | 5.06 g | C(CC)NN1C(CC2=CC=CC=C12)=O | C11H14N2O
reactant | phenol | 13.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | p-toluenesulfonic acid hydrate | 0.25 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-chloro-3-fluoropyridine hydrochloride | 5.37 g | Cl.ClC1=C(C=NC=C1)F
reactant | 4-chloro-3-fluoropyridine | 2.05 g | ClC1=C(C=NC=C1)F | C5H3ClFN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,3-Dihydro-1-[(3-fluoro-4-pyridinyl)-propylamino]-2H-indol-2-one | FC=1C=NC=CC1N(N1C(CC2=CC=CC=C12)=O)CCC | C16H16FN3O
